US07109339B2
6-Iodo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (7.70 g, 25 mmol), tris(dibenzylideneacetone)dipalladium(0) (482 mg, 0.52 mmol), zinc (202 mg, 3.0 mmol), Zn(CN)2 (1.819 g, 15 mmol), and 1,1′-(diphenylphosphino)ferrocene (572 mg, 1.03 mmol) were dissolved in N,N-dimethylacetamide (40 mL). The reaction was heated at 120° C. for 1 h then cooled to room temperature. The reaction mixture was diluted with CH2Cl2, filtered through diatomaceous earth, and concentrated. The crude material was dissolved in THF (15 mL) and water (3 mL) and treated with K2CO3 (3.74 g, 27 mmol) and (Boc)2O (5.91 g, 27 mmol). After 2 h, the reaction was diluted with water and extracted with CH2Cl2 (4×20 mL). The combined CH2Cl2 layers were dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash column chromatography (silica gel, 5–25% EtOAc/hexanes) to afford 6-cyano-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester (5.24 g, 91%) as an oil.

reactant | 6-Iodo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 25 mmol, 7.70 g | IC1=CC=CC=2C3=C(NC12)CCNC3 | C11H11IN2
reactant | K2CO3 | 27 mmol, 3.74 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (Boc)2O | 27 mmol, 5.91 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-dimethylacetamide | 40 mL | CN(C(C)=O)C | C4H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.52 mmol, 482 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc | 3.0 mmol, 202 mg | [Zn] | Zn
catalyst | Zn(CN)2 | 15 mmol, 1.819 g | [C-]#N.[C-]#N.[Zn+2]
solvent | water | 3 mL | O | H2O
product | 6-cyano-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 5.24 g, 91% | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C(=CC=CC23)C#N)CC1 | C17H19N3O2
